US04127720
B. Ethyl 4-Oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate
A stirred mixture of diethyl isoquinolylaminomethylenemalonate (32.0 g., 0.0986 mole) and diphenyl ether (125 ml.) under nitrogen was heated at a temperature of 235° for 15 minutes. The solid, m.p. 183°-184°, obtained upon cooling and dilution with Skellysolve B was recrystallized from ethanol to give salmon crystals (22 g., 83% yield), m.p. 189°-191°. An analytical sample, recrystallized from ethanol, had m.p. 190°-192°.

reactant | diethyl isoquinolylaminomethylenemalonate | 0.0986 mole, 32.0 g | C1(=NC=CC2=CC=CC=C12)NC=C(C(=O)OCC)C(=O)OCC | C17H18N2O4
reactant | diphenyl ether | 125 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 4-Oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 83% yield | O=C1C(=CN=C2N1C=CC1=CC=CC=C21)C(=O)OCC | C15H12N2O3
